US08440830B2
To a solution of NaH (2.2 eq) in tetrahydrofuran, HMDS (2.2 eq) was added at 0° C. and the reaction mixture was stirred for 15 min. Then, 2-nitro-4-pyrrolidin-1-ylaniline (1.0 eq) in tetrahydrofuran was added at 0° C., continued the reaction at room temperature for 5 hrs. Then, (Boc)2O (1.0 eq.) was added, stirred the reaction at room temp overnight. Water was added and the organic layer was separated, dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the desired tert-butyl 2-nitro-4-pyrrolidin-1-ylphenylcarbamate. (Yield=65%)

reactant | NaH | 2.2 eq | [H-].[Na+]
reactant | HMDS | 2.2 eq | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | 2-nitro-4-pyrrolidin-1-ylaniline | 1.0 eq | [N+](=O)([O-])C1=C(N)C=CC(=C1)N1CCCC1 | C10H13N3O2
reactant | (Boc)2O | 1.0 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | tert-butyl 2-nitro-4-pyrrolidin-1-ylphenylcarbamate | Yield=65% | [N+](=O)([O-])C1=C(C=CC(=C1)N1CCCC1)NC(OC(C)(C)C)=O | C15H21N3O4
